US07595320B2
N-Benzhydrylidene-N′-(4-chlorophenyl)hydrazine (0.2 g, 0.65 mmol, 1 eq.) and 3.2 mL of tetrahydrofuran are placed in a predried 20 mL round-bottomed flask under argon. The solution is cooled to a temperature in the region of −10° C. and 0.5 M potassium hexamethylbis-silylamide solution (1.43 mL, 1.1 eq.) is then added. The solution darkens, and is left to react at this temperature for 30 minutes, followed by addition of a solution of methyl iodide in methyl tert-butyl ether (0.49 mL, 1.5 eq.). The mixture is then allowed to return to a temperature in the region of 25° C. and is left stirring for 4 hours. After treatment with sodium hydrogen carbonate, the mixture is extracted with ethyl acetate. The organic extracts are combined, dried over magnesium sulfate and then concentrated to dryness under vacuum. The residual oil is purified by chromatography on silica gel, eluting with an ethyl acetate/heptane mixture (10/90 by volume). N′-Benzhydrylidene-N-(4-chlorophenyl)-N-methylhydrazine is obtained in a yield of 96% in the form of a yellow solid, which product is used directly in the following step.

reactant | N-Benzhydrylidene-N′-(4-chlorophenyl)hydrazine | 0.65 mmol, 0.2 g, 1 eq. | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NNC1=CC=C(C=C1)Cl | C19H15ClN2
reactant | methyl iodide | CI | CH3I
reactant | methyl tert-butyl ether | 0.49 mL, 1.5 eq. | C(C)(C)(C)OC | C5H12O
solvent | tetrahydrofuran | 3.2 mL | O1CCCC1 | C4H8O
product | N′-Benzhydrylidene-N-(4-chlorophenyl)-N-methylhydrazine | yield of 96% | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NN(C)C1=CC=C(C=C1)Cl | C20H17ClN2
